US06743919B2
[1-(4-Chlorobenzyl)-1H-indol-3-yl]-[4-(pyridin-3-ylaminomethyl)-1H-imidazol-2-yl]methanone:
A solution of [1-(4-chlorobenzyl)-1H-indol-3-yl]-[4-(pyridin-3-ylaminomethyl)-1-(2-trimethylsilanylethoxymethyl)-1H-imidazol-2-yl]methanone (43 mg, 7.52×10−5 mol) in ethanol (5 mL) and 2N HCl (5 mL) was heated to reflux for 2 h. The solution was allowed to cool to room temperature then neutralized with 2N NaOH. Solvent was removed under reduced pressure and ethyl acetate (50 mL) was added. The organic layer was washed with water, dried over MgSO4 and filtered. Solvent was removed under reduced pressure to produce a white powder (18 mg, 54%). 1H NMR; ESMS Calcd C25H20ClN5O 441.14, found: 442.2 (M+H)+.

reactant | [1-(4-chlorobenzyl)-1H-indol-3-yl]-[4-(pyridin-3-ylaminomethyl)-1-(2-trimethylsilanylethoxymethyl)-1H-imidazol-2-yl]methanone | 7.52×10−5 mol, 43 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C=2N(C=C(N2)CNC=2C=NC=CC2)COCC[Si](C)(C)C)C=C1 | C31H34ClN5O2Si
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | HCl | 2N, 5 mL | Cl | ClH
product | [1-(4-Chlorobenzyl)-1H-indol-3-yl]-[4-(pyridin-3-ylaminomethyl)-1H-imidazol-2-yl]methanone | 18 mg, 54% | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C=2NC=C(N2)CNC=2C=NC=CC2)C=C1 | C25H20ClN5O
